US06635647B2
To a solution of (S)-2-methyl-3-quinoxalin-6-yl-propionaldehyde (2.7 g, 13.48 mmol) in dichloroethane (100 ml) is added (4S,4aS,8aR)-decahydro-isoquinolin-4-yl)-[4-(3,4-difluoro-phenyl)-piperazin-1-yl]-methanone (5.36 g, 11.22 mmol) and stirred for 5 minutes. NaBH(OAc)3 (3.56 g, 16.8 mmol) is added and the mixture stirred for 1 h. A 1 M solution of NaHCO3 (100 ml) is added and intensively stirred for 15 minutes. The phases are separated, the organic phase dried over Na2SO4 and evaporated to afford 7.2 g of the crude product. MPLC purification (silicagel, EtOAc, then EtOAc/MeOH 5:1) yield pure [4-(3,4-Difluoro-phenyl)-piperazin-1-yl]-[(4S,4aS,8aR)-2-(2(S)-methyl-3-quinoxalin-6-yl-propyl)-decahydro-isoquinolin-4-yl]-methanone. This base is dissolved in 60 ml warm MeOH and treated with maleic acid (1.3 g, 11.22 mmol) in 20 ml MeOH. The solution is diluted with Et2O (450 ml), and the slightly cloudy solution filtered through Hyflo. Crystallisation first at room temperature and then at 5° afford the maleic acid salt, m.p. 1200-1230. Recrystallization from 50 ml MeOH and 100 ml Et2O yield the pure maleic acid salt, m.p. 129°-131°.

reactant | (S)-2-methyl-3-quinoxalin-6-yl-propionaldehyde | 13.48 mmol, 2.7 g | C[C@H](C=O)CC=1C=C2N=CC=NC2=CC1 | C12H12N2O
reactant | [4-(3,4-difluoro-phenyl)-piperazin-1-yl]-methanone | 11.22 mmol, 5.36 g | FC=1C=C(C=CC1F)N1CCN(CC1)C=O | C11H12F2N2O
reactant | NaBH(OAc)3 | 16.8 mmol, 3.56 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
product | [4-(3,4-Difluoro-phenyl)-piperazin-1-yl]-[(4S,4aS,8aR)-2-(2(S)-methyl-3-quinoxalin-6-yl-propyl)-decahydro-isoquinolin-4-yl]-methanone | FC=1C=C(C=CC1F)N1CCN(CC1)C(=O)[C@@H]1CN(C[C@@H]2CCCC[C@H]12)C[C@H](CC=1C=C2N=CC=NC2=CC1)C | C32H39F2N5O
